US04720586
(a) 3,4-Dimethoxy-5-propylbenzenemethanol
A solution of 3,4-dimethoxy-5-propylbenzaldehyde (11 g) and sodium borohydride (2 g) in 2-propanol (100 ml) was stirred at room temperature for 2 hours. The mixture was quenched with 2 N HCl (200 ml) and extracted with ethyl acetate. The organic phase was separated, washed with brine, dried over MgSO4, filtered and evaporated to leave a yellow oil which was purified by Kugelrohr bulb to bulb distillation at 1 mm Hg air bath temperature 150° to give the sub-title compound as a colourless oil (8 g).

reactant | 3,4-dimethoxy-5-propylbenzaldehyde | 11 g | COC=1C=C(C=O)C=C(C1OC)CCC | C12H16O3
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 3,4-Dimethoxy-5-propylbenzenemethanol | 8 g | COC=1C=C(C=C(C1OC)CCC)CO | C12H18O3
